US07902367B2
(S)-3-[3-[[2-(4-Chlorophenyl)-4-methylthiazole-5-carbonyl]methylamino]piperidin-1-yl]benzoic acid
A 1 mol/L aqueous potassium hydroxide solution (1 mL) was added to methyl(S)-3-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]methylamino]piperidin-1-yl]benzoate (59.4 mg, 0.123 mmol) in methanol (5 mL). The mixture was stirred for 1 hour while being refluxed. The solvent was then evaporated and the residue was dissolved in water. The mixture was made acidic by the addition of 2 mol/L hydrochloric acid. The crystallized powdery product was collected by filtration. Washing this product with water gave 56.4 mg (98%) of the desired product as a colorless amorphous product.

reactant | potassium hydroxide | 1 mol/L, 1 mL | [OH-].[K+]
reactant | methyl(S)-3-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]methylamino]piperidin-1-yl]benzoate | 0.123 mmol, 59.4 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)CN[C@@H]1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C25H26ClN3O3S
solvent | methanol | 5 mL | CO | CH4O
product | (S)-3-[3-[[2-(4-Chlorophenyl)-4-methylthiazole-5-carbonyl]methylamino]piperidin-1-yl]benzoic acid | 56.4 mg, 98% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)CN[C@@H]1CN(CCC1)C=1C=C(C(=O)O)C=CC1 | C24H24ClN3O3S
